US07824745B2
8.60 g (30 mmol) of 3-ethoxy-8-propyl-7,8,9,10-tetrahydrobenzo[c]-chromen-6-one are dissolved in THF and hydrogenated to cessation on palladium/active carbon. The solution is filtered and evaporated, giving 3-ethoxy-8-propyl-6a,7,8,9,10,10a-hexahydrobenzo[c]chromen-6-one as colourless oil.

reactant | 3-ethoxy-8-propyl-7,8,9,10-tetrahydrobenzo[c]-chromen-6-one | 30 mmol, 8.60 g | C(C)OC1=CC=C2C3=C(C(OC2=C1)=O)CC(CC3)CCC | C18H22O3
solvent | THF | C1CCOC1 | C4H8O
product | 3-ethoxy-8-propyl-6a,7,8,9,10,10a-hexahydrobenzo[c]chromen-6-one | C(C)OC1=CC=C2C3C(C(OC2=C1)=O)CC(CC3)CCC | C18H24O3
